US06573263B2
Analogously to Example 10A, 979 mg (4.00 mmol) of 2-(3-ethoxy-4-methoxyphenyl)ethanamidine hydrochloride are reacted with 200 mg (4.00 mmol) of hydrazine hydrate and 1.12 g (6.00 mmol) of ethyl 3-(acetylamino)-2-oxobutanoate to give N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}acetamide.

reactant | 2-(3-ethoxy-4-methoxyphenyl)ethanamidine hydrochloride | 4.00 mmol, 979 mg | Cl.C(C)OC=1C=C(C=CC1OC)CC(=N)N
reactant | hydrazine hydrate | 4.00 mmol, 200 mg | O.NN
reactant | ethyl 3-(acetylamino)-2-oxobutanoate | 6.00 mmol, 1.12 g | C(C)(=O)NC(C(C(=O)OCC)=O)C | C8H13NO4
product | N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}acetamide | COC=1C=C(CC2=NN=C(C(N2)=O)C(C)NC(C)=O)C=CC1OC | C16H20N4O4
